US07589095B2
Iodine (1.64 g, 6.5 mmol) was added at room temperature to a solution of 4-propyl-6-trimethylstannanyl-pyrimidine-2-carbonitrile (2.0 g, 6.5 mmol) in THF (100 mL). The mixture was stirred at room temperature for 2 hours, then diluted with a saturated solution of sodium thiosulfate and the THF was removed under reduced pressure. The aqueous layer was extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with brine, dried over sodium sulphate, filtered and concentrated under reduced pressure. The residue was chromatographed over silica gel (eluent:Cyclohexane/Ethyl acetate 5/5) to afford 4-iodo-6-propyl-pyrimidine-2-carbonitrile (1.28 g, 72%) as a colorless oil.

reactant | Iodine | 6.5 mmol, 1.64 g | II | I2
reactant | 4-propyl-6-trimethylstannanyl-pyrimidine-2-carbonitrile | 6.5 mmol, 2.0 g | C(CC)C1=NC(=NC(=C1)[Sn](C)(C)C)C#N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | 4-iodo-6-propyl-pyrimidine-2-carbonitrile | 1.28 g, 72% | IC1=NC(=NC(=C1)CCC)C#N | C8H8IN3
